US09255089B2
4-(cyclopentyl(hydroxy)(pyridin-2-yl)methyl)-6-(3,5-dimethylisoxazol-4-yl)-1H-benzo[d]imidazol-2(3H)-one
(6-(3,5-dimethylisoxazol-4-yl)-2-ethoxy-1H-benzo[d]imidazol-4-yl)(pyridin-2-yl)methanone (50 mg, 0.14 mmol) was dissolved in dry THF (1.4 mL) under argon and cooled to 0° C. Cyclopentylmagnesium chloride (2.0 M, 0.14 mL, 0.28 mmol) was added dropwise and reaction was allowed to stir for 10 minutes then quenched with water. Reaction mixture was extracted three times with EtOAc and combined organic layers were washed once with water and concentrated. Residue was taken up in EtOH (1.5 mL) and 4.0M HCl/dioxane (0.75 mL) and heated to 65° C. for 2 hours. Reaction was concentrated and purified by reverse-phase HPLC to afford the desired product as a white powder.

reactant | (6-(3,5-dimethylisoxazol-4-yl)-2-ethoxy-1H-benzo[d]imidazol-4-yl)(pyridin-2-yl)methanone | 0.14 mmol, 50 mg | CC1=NOC(=C1C=1C=C(C2=C(NC(=N2)OCC)C1)C(=O)C1=NC=CC=C1)C | C20H18N4O3
reactant | Cyclopentylmagnesium chloride | 0.28 mmol, 2.0 M, 0.14 mL | C1(CCCC1)[Mg]Cl
solvent | THF | 1.4 mL | C1CCOC1 | C4H8O
product | 4-(cyclopentyl(hydroxy)(pyridin-2-yl)methyl)-6-(3,5-dimethylisoxazol-4-yl)-1H-benzo[d]imidazol-2(3H)-one | C1(CCCC1)C(C1=CC(=CC=2NC(NC21)=O)C=2C(=NOC2C)C)(C2=NC=CC=C2)O | C23H24N4O3
